US08222416B2
A solution of 1-benzenesulfonyl-2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-5-methoxy-1H-pyrrolo[2,3-b]pyridine (536 mg, 1 mmol) in tetrahydrofuran (0.5 mL) and a tetrabutylammonium fluoride solution in tetrahydrofuran (1 M, 2 mL, 2 mmol) was stirred at room temperature for 12 h. The mixture was then diluted with ethyl acetate (150 mL), and washed with a saturated aqueous ammonium chloride solution, brine, dried over anhydrous sodium sulfate and concentrated in vacuo to afford 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-5-methoxy-1H-pyrrolo[2,3-b]pyridine (390 mg, 98.5%) as a white solid: LC/MS m/e calcd for C22H24N2O3S [M+H]+ 397.51, observed 397.2.

reactant | 1-benzenesulfonyl-2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-5-methoxy-1H-pyrrolo[2,3-b]pyridine | 1 mmol, 536 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)OC)C(=CC2CCCC2)C2=CC=C(C=C2)S(=O)(=O)C | C28H28N2O5S2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 2 mmol, 1 M, 2 mL | O1CCCC1 | C4H8O
product | 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-5-methoxy-1H-pyrrolo[2,3-b]pyridine | 390 mg, 98.5% | C1(CCCC1)C=C(C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=2C(=NC=C(C2)OC)N1 | C22H24N2O3S
